US06268387B1
3-(Naphthalene-1-sulfonylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 127 using 1-naphthalenesulfonyl chloride (0.68 g, 3.0 mmol), 3-amino-4-methoxy-N-phenyl-benzamide (0.73 g, 3.0 mmol), and ethyl acetate instead of dichloromethane to afford the product (0.8 g); m.p. 212-213° C.

reactant | 1-naphthalenesulfonyl chloride | 3.0 mmol, 0.68 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 3.0 mmol, 0.73 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Naphthalene-1-sulfonylamino)-4-methoxy-N-phenyl-benzamide | 0.8 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C24H20N2O4S
